US03946000
To a hot (60°) solution of 3-mercapto-s-triazolo[4,3-a]pyridine [D. S. Tarhell et al., J. Am. Chem. Soc. 70, 1381 (1948)] (1.51 g., 10 mmole) and NaHCO3 (1.68 g., 20 mmole) in 0.1 M pH 7.4 phosphate buffer (50 ml.) was added portionwise 7-ACA (2.72 g., 10 mmole) and the mixture was heated at 80°-85° for 30 min. The reaction mixture being treated with carbon, the filtrate was acidified to pH 5 with dil. HCl to give 7-amino-3-(s-triazolo[4,3-a]pyridin-3-ylthiomethyl)-3-cephem-4-carboxylic acid which was collected by filtration, washed with water (10 ml.) and dried in vacuo on P2O5. Yield 1.40 g. (39%). M.p. 215°-220° (dec.).

reactant | 3-mercapto-s-triazolo[4,3-a]pyridine | 10 mmole, 1.51 g | SC1=NN=C2N1C=CC=C2 | C6H5N3S
reactant | NaHCO3 | 20 mmole, 1.68 g | C(=O)(O)[O-].[Na+]
reactant | 7-ACA | 10 mmole, 2.72 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | HCl | Cl | ClH
solvent | phosphate | 0.1 M, 50 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
product | 7-amino-3-(s-triazolo[4,3-a]pyridin-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C3N2C=CC=C3)C(=O)O)C1=O | C14H13N5O3S2
